US07368578B2
A mixture of 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1-phenyl-1H-pyrazole-4-carbaldehyde (0.60 g), hydroxylamine hydrochloride (0.14 g), pyridine (0.26 g) and ethanol (20 mL) was heated under reflux for 2 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. Acetic anhydride (20 mL) was added to residue, and the mixture was heated under reflux for 2 hrs. The reaction mixture was concentrated and ethyl acetate was added to the residue. The ethyl acetate layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1-phenyl-1H-pyrazole-4-carbonitrile as colorless crystals (0.40 g, 68%) from a fraction eluted with ethyl acetate-hexane (1:1, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 158-159° C.

reactant | 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1-phenyl-1H-pyrazole-4-carbaldehyde | 0.60 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(COC2=NN(C=C2C=O)C2=CC=CC=C2)C=C1)C | C26H21N3O5
reactant | hydroxylamine hydrochloride | 0.14 g | Cl.NO
reactant | pyridine | 0.26 g | N1=CC=CC=C1 | C5H5N
reactant | ethanol | 20 mL | C(C)O | C2H6O
solvent | Water | O | H2O
product | 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1-phenyl-1H-pyrazole-4-carbonitrile | 0.40 g, 68% | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(COC2=NN(C=C2C#N)C2=CC=CC=C2)C=C1)C | C26H20N4O4
